US06919331B2
To a cooled (0° C.) solution of 2-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid methyl ester (1.00 g, 3.62 mmol) in DCM (10 mL) was added thionyl chloride (396 μL, 5.43 mmol). The solution was stirred at 0° C. for 15 min. and concentrated in vacuo to give 2-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid methyl ester; HCl salt (1.20 g, 100%) as a white solid, which was used without further purification:

reactant | 2-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid methyl ester | 3.62 mmol, 1.00 g | COC(=O)C1=CC2=C(N(C(=N2)CO)CCC(C)C)C=C1 | C15H20N2O3
reactant | thionyl chloride | 5.43 mmol, 396 μL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N(C(=N2)CCl)CCC(C)C)C=C1 | C15H19ClN2O2
